* source VCO
Q_Q1         N00434 N00884 N00405 Q2N3904
R_R6         0 N01207  47k  
C_C1         N00405 N00434  10p  
C_C2         N00434 N00729  30p  
C_C4         N01153 N01126  47u  
C_C3         N00434 N00729  200p  
C_C9         0 N00729  47u  
C_C5         N01207 N01180  47u  
L_L1         N00434 N00729  50nH  
C_C6         0 N01153  1n  
V_V1         N00729 0 9Vdc
C_C7         0 N01207  1n  
R_R8         0 N00884  10k  
R_R1         N00884 N00729  39k  
C_C8         0 N00729  1n  
R_R2         0 N00405  100  
R_R3         N01126 N00884  22k  
R_R4         0 N01153  47k  
R_R7         N028571 0  1k  
V_V3         N028571 0  
+SIN 0 0 0 0 0 0
C_C10         0 N00884  1n  
R_R5         N01180 N00884  22k  
